US07915267B2
To a suspension of ethyl ((2-(aminocarbonyl)-4-iodophenyl)amino)(oxo)acetate (20.9 g, 57.7 mmol) in ethanol (300 mL) was added dropwise sodium ethylate (20% ethanol solution, 21.6 g, 63.5 mmol) under ice-cooling, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into 0.3N hydrochloric acid (600 mL) under ice-cooling, and the precipitated insoluble material was collected by filtration. The filtered cake was washed with water and ethanol to give ethyl 6-iodo-4-oxo-3,4-dihydroquinazoline-2-carboxylate as a pale-pink powder (17.0 g, 86%).

reactant | ethyl ((2-(aminocarbonyl)-4-iodophenyl)amino)(oxo)acetate | 57.7 mmol, 20.9 g | NC(=O)C1=C(C=CC(=C1)I)NC(C(=O)OCC)=O | C11H11IN2O4
reactant | sodium ethylate | 63.5 mmol, 21.6 g | CC[O-].[Na+]
reactant | hydrochloric acid | 0.3N, 600 mL | Cl | ClH
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | ethyl 6-iodo-4-oxo-3,4-dihydroquinazoline-2-carboxylate | 17.0 g, 86% | IC=1C=C2C(NC(=NC2=CC1)C(=O)OCC)=O | C11H9IN2O3
